US07268145B2
2-nitroaniline (829 mg, 6 mmol) and 1-methylindole carboxaldehyde (1242 mg, 7.8 mmol) were dissolved in 20 ml of tetrahydrofuran, to which acetic acid (200 μl) and NaBH(OAc)3 (5087 mg, 24 mmol) were sequentially added and stirred at room temperature overnight. A saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate, dried with anhydrous sodium sulfate, and the solvent was evaporated. After purification by silica gel column chromatography (hexane:ethyl acetate=95:5), ((1-methylindole-3-yl)methyl)(2-nitrophenyl)amine was obtained (264 mg, yield 18%).

reactant | 2-nitroaniline | 6 mmol, 829 mg | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 1-methylindole carboxaldehyde | 7.8 mmol, 1242 mg | CN1C(=CC2=CC=CC=C12)C=O | C10H9NO
reactant | NaBH(OAc)3 | 24 mmol, 5087 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 200 μl | C(C)(=O)O | C2H4O2
product | ((1-methylindole-3-yl)methyl)(2-nitrophenyl)amine | yield 18% | CN1C=C(C2=CC=CC=C12)CNC1=C(C=CC=C1)[N+](=O)[O-] | C16H15N3O2
